US08377930B2
3-Methyl-2-phenylbutanehydrazide
A stirred solution of methyl 3-methyl-2-phenylbutanoate (0.87 g, 1 eq) and hydrazine hydrate (10 mL) was heated at 110° C. for 12 h. The reaction mixture was then cooled and the solvents removed under reduced pressure. The crude oil was diluted with EtOAc and washed with H2O and the organic phase dried over Na2SO4, filtered, and the solvents removed under reduced pressure to yield a yellow oil (0.17 g, 47%) that was purified by column chromatography over silica gel to yield the product (0.61 g).

reactant | methyl 3-methyl-2-phenylbutanoate | 0.87 g, 1 eq | CC(C(C(=O)OC)C1=CC=CC=C1)C | C12H16O2
reactant | hydrazine hydrate | 10 mL | O.NN
product | 3-Methyl-2-phenylbutanehydrazide | 0.17 g, 47% | CC(C(C(=O)NN)C1=CC=CC=C1)C | C11H16N2O
